2176-07-09 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -plan to transfer to [**Hospital Unit Name 44**] but no available beds
   -CT cystogram without bladder rupture, clot in bladder
   -CBI continuing
   -hct trending downward, given 1 u PRBC a.m. [**7-9**] for hct < 21
   -d/w wife code status, pt is full code
   -d/w neuro dilantin level, they said give additional 200mg po bid x 2
   doses on [**7-8**] and recheck level in a.m. on [**7-9**]
   - large liquid stool
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-7-9**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 89 (71 - 113) bpm
   BP: 114/50(109) {85/35(50) - 169/83(109)} mmHg
   RR: 20 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  1,833 mL
                                                                    558 mL
   PO:
             TF:
             184 mL
   IVF:
                                                                  1,488 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,910 mL
                                                                    450 mL
   Urine:
                                                                  1,910 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -78 mL
                                                                    108 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Gen: s/p  large liquid stool and wound nurse eval
   Back: stage II decubitus ulcer
   Exam deferred at this time, will examine later
   Labs / Radiology
   430 K/uL
   6.6 g/dL
   58 mg/dL
   1.5 mg/dL
   22 mEq/L
   2.9 mEq/L
   25 mg/dL
   110 mEq/L
   141 mEq/L
   20.6 %
   5.7 K/uL
        [image002.jpg]
                             [**2176-7-8**]  03:58 AM
                             [**2176-7-8**]  06:42 PM
                             [**2176-7-9**]  12:57 AM
                             [**2176-7-9**]  04:23 AM
   WBC
   7.8
   5.7
   Hct
   24.4
   21.9
   20.1
   20.6
   Plt
   503
   430
   Cr
   1.5
   1.5
   Glucose
   168
   58
   Other labs: PT / PTT / INR:14.1/26.2/1.2, Differential-Neuts:81.3 %,
   Lymph:12.6 %, Mono:3.8 %, Eos:1.8 %, Albumin:2.7 g/dL, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 87 y.o. M with a history of bladder ruptures x 2,
   s/p intraperitoneal bladder rupture managed by operative repair on
   [**2176-6-4**] with insertion of suprapubic tube and foley catheter, sent from
   [**Hospital 12**] Rehab for bleeding from 3-way catether and suprapubic catheter.
   # Hematuria: Pt with gross hematuria and tenuous bladder given history
   of ruptures.  Reassuringly, Hct stable.
   - appreciate urology recs
   - Run CBI through suprapubic catheter (capping off 3 way catheter and
   allowing NS to drain to gravity).
   - Continue suprapubic irrigation at 2 drips per second.
   - Wait until urine clear X 24 hours
   - q 1 hour bladder checks
   # Diarrhea: with significant rectal pain. Send C. diff, ask surgery to
   eval with anoscopy prior to flexiseal. Pt with decub ulcer and will
   need to keep stool off ulcer if able.  [**Month (only) 60**] be related to tube feeds.
   # Suprapubic Pain: [**Month (only) 60**] be secondary to cystititis and/or post operative
   pain
   - monitor pain
   - f/u cultures
   # Anemia: Labs in [**2176**] c/w anemia of chronic disease but iron low.
   Recent baseline Hct 25-27.
   - active T&S
   - start iron with bowel regimen
   - monitor Hct
pm HCT check s/p 1 u PRBC this morning
   # Afib with RVR: on EKG
   - continue metoprolol tartrate with IV prn
   # Renal Failure: Since [**2176-5-31**], Cr has been as high as 2.3 and now
   decreasing to Cr 1.4.  At previous admission, thought to be due to
   gentamicin toxicity precipitated by infection/sepsis.
   - trend Cr and UOP stable
   - avoid nephrotoxins
   - renally dose medications
   # Hypertension: Slightly elevated
   - continue metoprolol tartrate
   # Diabetes Mellitus: HgbA1C 7.1 in [**2172**]
   - continue lantus
decreasing dose for low BG this am
   - continue baby ASA
   # Seizures: Happened on recent admission to ICU in [**2176-5-31**] where EEG
   showed possible non-convulsive status epilepticus.  Was to follow up
   with neurology
   - continue phenytoin 125 mg po TID
goal total level 15-20, free level
   2-2.5
   - add on albumin to correct for phenytoin level
   - seizure precautions
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2176-7-9**] 12:00 AM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2176-7-8**] 02:23 AM
   20 Gauge - [**2176-7-8**] 11:00 AM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full Code
   Disposition: ICU until urine clear X 24 hours

2176-07-09 07:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > CBI
   > Hemodynamically stable
   > family updated, pt is full code.
   > transfused 1U PRBC
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-7-9**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 89 (71 - 113) bpm
   BP: 114/50(109) {85/35(50) - 169/83(109)} mmHg
   RR: 20 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  1,833 mL
                                                                    564 mL
   PO:
             TF:
             189 mL
   IVF:
                                                                  1,488 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  1,910 mL
                                                                    450 mL
   Urine:
                                                                  1,910 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -78 mL
                                                                    114 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, stage 2 sacral decub, no obvious anal fissure, may be
   small ext hemorrhoid
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Not assessed, No(t)
   Sedated, Tone: Not assessed
   Labs / Radiology
   6.6 g/dL
   430 K/uL
   58 mg/dL
   1.5 mg/dL
   22 mEq/L
   2.9 mEq/L
   25 mg/dL
   110 mEq/L
   141 mEq/L
   20.6 %
   5.7 K/uL
        [image002.jpg]
                             [**2176-7-8**]  03:58 AM
                             [**2176-7-8**]  06:42 PM
                             [**2176-7-9**]  12:57 AM
                             [**2176-7-9**]  04:23 AM
   WBC
   7.8
   5.7
   Hct
   24.4
   21.9
   20.1
   20.6
   Plt
   503
   430
   Cr
   1.5
   1.5
   Glucose
   168
   58
   Other labs: PT / PTT / INR:14.1/26.2/1.2, Differential-Neuts:81.3 %,
   Lymph:12.6 %, Mono:3.8 %, Eos:1.8 %, Albumin:2.7 g/dL, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   87 y.o. M with a history of bladder ruptures x 2, s/p intraperitoneal
   bladder rupture managed by operative repair on [**2176-6-4**] with insertion of
   suprapubic tube and foley catheter, sent from [**Hospital 12**] Rehab for bleeding
   from 3-way catether and suprapubic catheter.
    > Hematuria: Pt with gross hematuria and tenuous bladder given history
   of ruptures.  Reassuringly, Hct stable. Need to clarify with uro the
   set up of the 3 way CBI.
   - appreciate urology recs
   - Run CBI through suprapubic catheter
   - q 1 hour bladder checks
   - defer Abx.
   > Suprapubic Pain: [**Month (only) 60**] be secondary to cystititis and/or post operative
   pain
   - monitor pain
   - f/u cultures
   > Anemia: Labs in [**2176**] c/w anemia of chronic disease but iron low.
   Recent baseline Hct 25-27. Transfused 1U PRBC for Hct of 20 with
   appropriate response (25).
   - active T&S
   - Fe repletion
   - monitor Hct
   - guiaic stools
   > Afib with RVR: on EKG
   - continue metoprolol via G tube
   > liquid stool / anal discomfort : hold bowel regimen, recheck optimal
   bowel feeds. Likely needs anoscopy (prior to placement of flex-o-seal).
   Check  c. dif
   - check  c. dif
   - banana flakes
   - nutrition recs
   > Renal Failure: Since [**2176-5-31**], Cr has been as high as 2.3 and now
   decreasing to Cr 1.4.  At previous admission, thought to be due to
   gentamicin toxicity precipitated by infection/sepsis.
   - trend Cr
   - avoid nephrotoxins
   - renally dose medications
   > Hypertension: Slightly elevated
   - continue metoprolol tartrate
   > Seizures: Occured on recent admission to ICU in [**2176-5-31**] where EEG
   showed possible non-convulsive status epilepticus.  Was to follow up
   with neurology
   - continue phenytoin 125 mg po TID
   - add on albumin to correct for phenytoin level
   - monitor phenytoin
   - seizure precautions
   Additional issues per ICU resident note
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2176-7-9**] 12:00 AM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale, decreased standing
   long acting insulin in setting of hypoglycemia this AM.
   Lines:
   PICC Line - [**2176-7-8**] 02:23 AM
   20 Gauge - [**2176-7-8**] 11:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2176-07-10 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   24 Hour Events:
   -Urology: d/c CBI as urine clear--tolerated well
   -GI: profuse liquid stool. Surgery consult/anoscopy with posterior anal
   fissure--rec keeping stool soft, avoid rectal tube, topical
   nitroglycerin as needed.  Bag on rectum to keep stool off decubitus
   ulcer. Stool sent for C. difficle
   -Neuro: dilantin level remained low, per neurology, gave 500 mg IV
   Dilantin slowly and patient tolerated well. Infusion finished at 2:30
   am. Plan to recheck levels in am.
   -Post transfusion HCT stable
   -Lantus decreased due to low am blood sugar
   -C.difficle positive, started metronidazole
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dilantin - [**2176-7-9**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-7-10**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 104 (71 - 104) bpm
   BP: 112/47(62) {71/32(36) - 140/111(118)} mmHg
   RR: 20 (11 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  2,028 mL
                                                                    879 mL
   PO:
             TF:
                                                                    903 mL
                                                                    432 mL
   IVF:
                                                                    240 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  2,335 mL
                                                                    825 mL
   Urine:
                                                                  2,335 mL
                                                                    825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -307 mL
                                                                     54 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   GEN: chronic appearing elderly male
   HEENT: anicteric
   CHEST: CTAB
   CV: RRR nl s1, s2, AS murmur
   ABD: NDNT, soft, suprapubic catheter draining clear fluid
   EXT: no c/c/e
   NEURO: A&O x1
   Labs / Radiology
   414 K/uL
   7.6 g/dL
   70 mg/dL
   1.5 mg/dL
   21 mEq/L
   3.5 mEq/L
   23 mg/dL
   116 mEq/L
   145 mEq/L
   23.2 %
   7.3 K/uL
        [image002.jpg]
                             [**2176-7-8**]  03:58 AM
                             [**2176-7-8**]  06:42 PM
                             [**2176-7-9**]  12:57 AM
                             [**2176-7-9**]  04:23 AM
                             [**2176-7-9**]  09:56 AM
                             [**2176-7-9**]  05:50 PM
                             [**2176-7-10**]  04:03 AM
   WBC
   7.8
   5.7
   7.3
   Hct
   24.4
   21.9
   20.1
   20.6
   25.0
   25.4
   23.2
   Plt
   [**Telephone/Fax (3) 9279**]
   Cr
   1.5
   1.5
   1.5
   Glucose
   168
   58
   70
   Other labs: PT / PTT / INR:14.1/26.2/1.2, Differential-Neuts:81.3 %,
   Lymph:12.6 %, Mono:3.8 %, Eos:1.8 %, Albumin:2.7 g/dL, Ca++:7.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   [**7-8**] cystogram:
   PFI:
   1. No sign of bladder rupture is noted. No free fluid is noted in the
   pelvis
   and no sign of extravasation of administered contrast is noted.
   2. Stable reflux of the administered contrast into the left distal
   ureter is
   unchanged since [**2175-3-3**].
   3. Hyperdense filling defect within the bladder.
   Assessment and Plan
   87 y.o. M with a history of bladder ruptures x 2, s/p intraperitoneal
   bladder rupture managed by operative repair on [**2176-6-4**] with insertion of
   suprapubic tube and foley catheter, sent from [**Hospital 12**] Rehab for bleeding
   from 3-way catether and suprapubic catheter.
   # Hematuria: Pt with gross hematuria and tenuous bladder given history
   of ruptures.  Reassuringly, Hct stable.
   - appreciate urology recs, s/p 24 hours of CBI with clear [**Last Name (LF) 949**], [**First Name3 (LF) **] be
   discharged per urology
   # C. Difficile Diarrhea:
   - continue flagyl (day 1 = [**7-10**])
   # Anal fissure:
   - appreciate surgery involvement
   - avoid rectal tube
   - NTG PR if pain
   # Anemia: Labs in [**2176**] c/w anemia of chronic disease but iron low.
   Recent baseline Hct 25-27.
   - active T&S
   - start iron with bowel regimen
   - 1 pRBC today
   # Afib with RVR: on EKG
   - continue metoprolol tartrate with IV prn
   # Renal Failure: Since [**2176-5-31**], Cr has been as high as 2.3 and now
   decreasing to Cr 1.4.  At previous admission, thought to be due to
   gentamicin toxicity precipitated by infection/sepsis.
   - trend Cr and [**Year (4 digits) 949**] stable
   - avoid nephrotoxins
   - renally dose medications
   # Hypertension: Slightly elevated
   - continue metoprolol tartrate
   # Diabetes Mellitus: HgbA1C 7.1 in [**2172**]
   - continue lantus
decreasing dose for low BG this am
   # Seizures: Happened on recent admission to ICU in [**2176-5-31**] where EEG
   showed possible non-convulsive status epilepticus.  Was to follow up
   with neurology. Got IV phenytoin overnight.
   - continue phenytoin 125 mg po TID
goal total level 15-20, free level
   2-2.5
   - talk to neuro regarding dosing
   - seizure precautions
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2176-7-10**] 01:26 AM 65 mL/hour with flakes
   Glycemic Control:
   Lines:
   PICC Line - [**2176-7-8**] 02:23 AM
   20 Gauge - [**2176-7-8**] 11:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL (confirmed)
   Disposition: discharge to rehab to medical unit
 talk to [**Hospital 12**] Rehab
   (talk to case management)

2176-07-10 08:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > c. dif +
   > off CBI since [**78**]:30 AM [**7-9**]
   > Anoscopy shows anal fissure
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dilantin - [**2176-7-9**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-7-10**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (96.9
   HR: 97 (71 - 104) bpm
   BP: 111/55(69) {71/32(36) - 138/100(113)} mmHg
   RR: 19 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 64.4 kg (admission): 67.3 kg
   Height: 72 Inch
             Total In:
                                                                  2,028 mL
                                                                  1,072 mL
   PO:
             TF:
                                                                    903 mL
                                                                    522 mL
   IVF:
                                                                    240 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                  2,335 mL
                                                                    860 mL
   Urine:
                                                                  2,335 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -307 mL
                                                                    212 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, PEG
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm, stage 2 sacral decub
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   414 K/uL
   70 mg/dL
   1.5 mg/dL
   21 mEq/L
   3.5 mEq/L
   23 mg/dL
   116 mEq/L
   145 mEq/L
   23.2 %
   7.3 K/uL
        [image002.jpg]
                             [**2176-7-8**]  03:58 AM
                             [**2176-7-8**]  06:42 PM
                             [**2176-7-9**]  12:57 AM
                             [**2176-7-9**]  04:23 AM
                             [**2176-7-9**]  09:56 AM
                             [**2176-7-9**]  05:50 PM
                             [**2176-7-10**]  04:03 AM
   WBC
   7.8
   5.7
   7.3
   Hct
   24.4
   21.9
   20.1
   20.6
   25.0
   25.4
   23.2
   Plt
   [**Telephone/Fax (3) 9279**]
   Cr
   1.5
   1.5
   1.5
   Glucose
   168
   58
   70
   Other labs: PT / PTT / INR:14.1/26.2/1.2, Differential-Neuts:81.3 %,
   Lymph:12.6 %, Mono:3.8 %, Eos:1.8 %, Albumin:2.7 g/dL, Ca++:7.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   87 y.o. M with a history of bladder ruptures x 2, s/p intraperitoneal
   bladder rupture managed by operative repair on [**2176-6-4**] with insertion of
   suprapubic tube and foley catheter, sent from [**Hospital 12**] Rehab for bleeding
   from 3-way catether and suprapubic catheter course now complicated by
   c. dif.
   > Hematuria: Pt with gross hematuria and tenuous bladder given history
   of ruptures.  Reassuringly Hct stable.  Now off CBI
   - appreciate urology recs
   - Run CBI through suprapubic catheter
   - q 1 hour bladder checks
    > Suprapubic Pain: [**Month (only) 60**] be secondary to cystititis and/or post
   operative pain
   - monitor pain
   - f/u cultures
   > Non gap acidosis: with low serum HCO3 likely [**3-4**] c. dif and high
   stool output.
   - treat underlying  c. dif
   > Anemia: Labs in [**2176**] c/w anemia of chronic disease but iron low.
   Recent baseline Hct 25-27. Transfused 1U PRBC for Hct of 20 with
   appropriate response (25).  Transfused an extra unit [**7-10**].
   - monitor Hct
   > Afib with RVR: on EKG
   - continue metoprolol via G tube
   > c. dif / anal discomfort : Has anal fissue (conservative managemt)
   and now c. dif positive
   -treatment for c. dif with metronidazole
   - banana flakes
   - nutrition recs
   > Renal Failure: Since [**2176-5-31**], Cr has been as high as 2.3 and now
   decreasing to Cr 1.4.  At previous admission, thought to be due to
   gentamicin toxicity precipitated by infection/sepsis.
   - trend Cr
   - avoid nephrotoxins
   - renally dose medications
   > Hypertension: Slightly elevated
   - continue metoprolol tartrate
   > Seizures: Occured on recent admission to ICU in [**2176-5-31**] where EEG
   showed possible non-convulsive status epilepticus.  Was to follow up
   with neurology
   - continue phenytoin 125 mg po TID
   - monitor phenytoin
   - seizure precautions
   Additional issues per ICU resident note
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2176-7-10**] 01:26 AM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2176-7-8**] 02:23 AM
   20 Gauge - [**2176-7-8**] 11:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :Transfer to floor vs MACU at [**Hospital **] Rehab
   Total time spent: 45 minutes